US07662974B2
Preparation of ethyl (3,5-dichloro-1-hydroxy-4-oxocyclohexa-2,5-dien-1-yl)acetate
Under nitrogen atmosphere, 6 mL of THF was added to 1.22 g (2 mmol, 0.6 equivalent) of (BrZnCH2COOEt.THF)2. A solution of 0.59 g (3.33 mmol) of 2,6-dichloro-p-benzoquinone in 3 mL of THF was added dropwise while stirring at 0˜5° C. The mixture was stirred at 20˜25° C. for 1 hour. 5 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 25 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL (×2) of 1N hydrochloric acid, 5 mL of water, 10 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, purification with silica gel column (developing solvent; ethyl acetate/n-hexane=1/3) afforded 0.76 g of the desired product (NMR yield 74%; internal standard trioxane). As a purified product, 0.48 g of the desired product was obtained (yield 54%).

reactant | BrZnCH2COOEt | Br[Zn]CC(=O)OCC
reactant | 2,6-dichloro-p-benzoquinone | 3.33 mmol, 0.59 g | ClC=1C(C(=CC(C1)=O)Cl)=O | C6H2Cl2O2
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | ethyl (3,5-dichloro-1-hydroxy-4-oxocyclohexa-2,5-dien-1-yl)acetate | 0.76 g, yield 74% | ClC1=CC(C=C(C1=O)Cl)(O)CC(=O)OCC | C10H10Cl2O4
